US04582862
(B3) 1-(4-Chlorophenyl)-2-methyl-2-morpholinopropan-1-one
85.1 g (0.4 mol) of 2-(4-chlorophenyl)-3,3-dimethyl-2-methoxyoxirane and 139.4 g (1.6 mols) of morpholine are combined and warmed to reflux temperature. After 22 hours the mixture is cooled and morpholine is removed by distillation. The residue is taken up in ether, and the solution is extracted with dilute hydrochloric acid. The hydrochloric acid solution is rendered alkaline and extracted with ether. The ether solution is dried with Na2SO4 and concentrated. The residue is recrystallised from ethanol.

reactant | 2-(4-chlorophenyl)-3,3-dimethyl-2-methoxyoxirane | 0.4 mol, 85.1 g | ClC1=CC=C(C=C1)C1(OC1(C)C)OC | C11H13ClO2
reactant | morpholine | 1.6 mols, 139.4 g | N1CCOCC1 | C4H9NO
product | 1-(4-Chlorophenyl)-2-methyl-2-morpholinopropan-1-one | ClC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C14H18ClNO2
